US04369312
In tetrahydrofuran (25 ml) is dissolved 2,2,2-trichloroethyl 7-methoxyimino-3-methyl-3-cephem-4-carboxylate (5.80 g) and under ice-cooling stirring, a 1 M tetrahydrofuran solution of borane-tetrahydrofuran complex (198 ml) is added dropwise over a period of 80 minutes. The reaction mixture is diluted with water (20 ml), adjusted to pH 1 with dilute hydrochloric acid and stirred at room temperature for 1.5 hours. The organic solvent is distilled off, the residual aqueous solution is adjusted to pH 7 with aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The ethyl acetate is then distilled off, the residue is dissolved in a mixture of methanol (120 ml) and 12.5% aqueous ammonium chloride (60 ml) and the mixture is stirred at room temperature for an hour. The organic solvent is distilled off and the residual aqueous solution is extracted with ethyl acetate. The extract is washed with aqueous sodium chloride, dried over magnesium sulfate and concentrated. The oily residue is subjected to silica gel (90 g) column chromatography and elution is carried out with ethyl acetate-methylene chloride. By the above procedure is obtained 2,2,2-trichloroethyl 7β-methoxyamino-3-methyl-3-cephem-4-carboxylate (3.51 g).

reactant | 2,2,2-trichloroethyl 7-methoxyimino-3-methyl-3-cephem-4-carboxylate | 5.80 g | CON=C1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C11H11Cl3N2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 1 M | O1CCCC1 | C4H8O
product | 2,2,2-trichloroethyl 7β-methoxyamino-3-methyl-3-cephem-4-carboxylate | 3.51 g | CON[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C11H13Cl3N2O4S
